US05089507
2-(pyrrolidin-1-yl)carbonyl-3,3-dimethyl piperidine
To a stirred solution of 5.6 g (0.026 moles) of 1-ethoxy carbonyl-3,3-dimethyl pipecolic acid in 50 ml of methylene chloride at 0° C., under nitrogen, were added 5.0 g (0.041 moles) of oxalyl chloride. After the addition the solution was allowed to reach room temperature, stirred 24 hours and evaporated in vacuo to dryness. The crude oily residue was dissolved in 30 ml of methylene chloride and added to a stirred solution of 4.44 g (0.062 moles) of pyrrolidine in 30 ml of methylene chloride at 0° C. After the addition the solution was allowed to reach room temperature and stirring was continued overnight. This solution was washed with saturated sodium bicarbonate and then with 10% HCl. The aqueous layer was brought to basic pH with 10% NaOH and extracted twice with methylene chloride. The combined extractes were dried and evaporated in vacuo to give 3.0 g of the title compound.

reactant | 1-ethoxy carbonyl-3,3-dimethyl pipecolic acid | 0.026 moles, 5.6 g | C(C)OC(=O)N1C(C(=O)O)C(CCC1)(C)C | C11H19NO4
reactant | oxalyl chloride | 0.041 moles, 5.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyrrolidine | 0.062 moles, 4.44 g | N1CCCC1 | C4H9N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(pyrrolidin-1-yl)carbonyl-3,3-dimethyl piperidine | 3.0 g | N1(CCCC1)C(=O)C1NCCCC1(C)C | C12H22N2O
